US09416127B2
(S)-tert-Butyl 2-(4-(1-(4-(difluoromethoxy)phenyl)-1H-1,2,4-triazole-3-carboxamido)phenyl)morpholine-4-carboxylate (180 mg, 0.35 mmol) was dissolved in dioxane (1.3 ml) and a solution of HCl in dioxane (4M, 1.3 ml, 5.2 mmol) was added. The reaction mixture was stirred for 90 min at 60° C. After cooling ether was added, the solid was filtered off, washed with ether and dried in vacuo at 60° C. to afford (S)-1-(4-(difluoromethoxy)phenyl)-N-(4-(morpholin-2-yl)phenyl)-1H-1,2,4-triazole-3-carboxamide hydrochloride (123 mg, 78%) as a white solid. MS (ISP): 416.4 ([M+H]+).

reactant | (S)-tert-Butyl 2-(4-(1-(4-(difluoromethoxy)phenyl)-1H-1,2,4-triazole-3-carboxamido)phenyl)morpholine-4-carboxylate | 0.35 mmol, 180 mg | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C(=O)NC1=CC=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)F | C25H27F2N5O5
reactant | HCl | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | dioxane | 1.3 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5.2 mmol, 4M, 1.3 ml | O1CCOCC1 | C4H8O2
product | (S)-1-(4-(difluoromethoxy)phenyl)-N-(4-(morpholin-2-yl)phenyl)-1H-1,2,4-triazole-3-carboxamide hydrochloride | 123 mg, 78% | Cl.FC(OC1=CC=C(C=C1)N1N=C(N=C1)C(=O)NC1=CC=C(C=C1)[C@H]1CNCCO1)F | InChI=1S/C20H19F2N5O3.ClH/c21-20(22)30-16-7-5-15(6-8-16)27-12-24-18(26-27)19(28)25-14-3-1-13(2-4-14)17-11-23-9-10-29-17;/h1-8,12,17,20,23H,9-11H2,(H,25,28);1H/t17-;/m1./s1
